US04680297
1-(3,4-Dichlorophenyl)-4-hydroxy-3-(2-hydroxypropyl)-1,8-naphthyridin-2(1H)-one
A stirred mixture of gamma-valerolactone (40 g.), ethyl 2-(3,4-dichlorophenylamino)-nicotinate (20 g.) and potassium t-butoxide (30 g.) was warmed in an atmosphere of nitrogen to 110° C. and kept there for 5 hr. After cooling somewhat the product was poured into 1000 ml. of 5% KOH solution and was allowed to stir overnight. The basic solution was extracted with ether (2×500 ml.) and the aqueous solution was acidified to pH 5 with conc. HCl. The solid was filtered off, washed with water, dried in air then recrystallized from methanol/charcoal to yield the desired product, m.p. 232°-234° C.

reactant | gamma-valerolactone | 40 g | C1(CCC(C)O1)=O | C5H8O2
reactant | ethyl 2-(3,4-dichlorophenylamino)-nicotinate | 20 g | ClC=1C=C(C=CC1Cl)NC1=C(C(=O)OCC)C=CC=N1 | C14H12Cl2N2O2
reactant | potassium t-butoxide | 30 g | CC(C)([O-])C.[K+]
reactant | KOH | [OH-].[K+]
product | 1-(3,4-Dichlorophenyl)-4-hydroxy-3-(2-hydroxypropyl)-1,8-naphthyridin-2(1H)-one | ClC=1C=C(C=CC1Cl)N1C(C(=C(C2=CC=CN=C12)O)CC(C)O)=O | C17H14Cl2N2O3
